US07220862B2
8-Fluoro-3-(piperidin-4-yl)quinazoline-2,4(1H,3H)-dione
A flask containing a solution of 3-(1-benzylpiperidin-4-yl)-8-fluoroquinazoline-2,4(1H,3H)-dione (75.0 mg, 0.21 mmol) and palladium on charcoal (8.00 mg, 0.035 equiv) in methanol (3.00 mL) was flushed first with nitrogen, then hydrogen. The reaction was stirred under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated to give 53 mg (95%) as a white solid which was used without purification. Mass spec.: 264.25 (MH)+.

reactant | 3-(1-benzylpiperidin-4-yl)-8-fluoroquinazoline-2,4(1H,3H)-dione | 0.21 mmol, 75.0 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=C(C=CC=C2C1=O)F)=O | C20H20FN3O2
catalyst | palladium on charcoal | 8.00 mg, 0.035 equiv | [Pd] | Pd
solvent | methanol | 3.00 mL | CO | CH4O
product | 8-Fluoro-3-(piperidin-4-yl)quinazoline-2,4(1H,3H)-dione | FC=1C=CC=C2C(N(C(NC12)=O)C1CCNCC1)=O | C13H14FN3O2
